US06559162B2
Ethyl 3-[3-(4-Cyanoanilino)propyl]-3-azabicyclo[3.2.1]oct-8-yl(methyl)carbamate
A mixture of 4-({3-[8-(methylamino)-3-azabicyclo[3.2.1]oct-3-yl]propyl}amino)benzonitrile (Preparation G; 74.6 mg, 0.25 mmol) and ethyl chloroformate (29.8 mg, 0.27 mmol) in DMF (2.5 mL) was stirred at rt for 24 h. Mass spectroscopic analysis showed that the amine starting material had not been totally consumed, and so additional ethyl chloroformate (50 μL) was added. The mixture was stirred overnight, after which time it was concentrated in vacuo. The resulting residue was dissolved in a mixture of DCM (0.5 mL) and MeCN (2 mL). K2CO3 (100 mg, 0.7 mmol) was added and the mixture stirred for 4 h. Filtration of the mixture and evaporation of the filtrate gave a residue that was dissolved in CHCl3 (1 mL). The solution was filtered through an ion-exchange solid-phase extraction plug (CBA, 2 g). The source flask was washed with additional CHCl3 (0.75 mL), which was then added to the extraction plug, and eluted as fraction 1. The plug was then eluted with CHCl3:MeOH:TEA (8:1:1; 4×2 mL) to give further fractions that were found not to contain any product. Fraction 1 was then added to a silica plug, which was eluted with CHCl3:MeCN (4:1; 3×2.5 mL). Evaporation of the fractions collected gave 79.6 mg (85.9%) of the title compound.

reactant | 4-({3-[8-(methylamino)-3-azabicyclo[3.2.1]oct-3-yl]propyl}amino)benzonitrile | 0.25 mmol, 74.6 mg | CNC1C2CN(CC1CC2)CCCNC2=CC=C(C#N)C=C2 | C18H26N4
reactant | ethyl chloroformate | 0.27 mmol, 29.8 mg | ClC(=O)OCC | C3H5ClO2
reactant | K2CO3 | 0.7 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 3-[3-(4-Cyanoanilino)propyl]-3-azabicyclo[3.2.1]oct-8-yl(methyl)carbamate | 79.6 mg, 85.9% | C(#N)C1=CC=C(NCCCN2CC3CCC(C2)C3N(C(OCC)=O)C)C=C1 | C21H30N4O2
